US07494992B2
(1S,2R,4aS,5S,8R,8aR)-8a-hydroxy-3,8-dimethyl-5-(1-methylethyl)-2-{[(prop-2-ynyloxy)carbonyl]oxy}-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate
To (1S,4aS,5S,8aR)-2,8a-dihydroxy-3,8-dimethyl-5-(1-methylethyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate (Preparation 144, 500 mg, 0.96 mmol) and 4-dimethylaminopyridine (350 mg, 2.9 mmol) in dichloromethane (25 ml) at 0° C. under nitrogen was added propargyl chloroformate (170 mg, 1.44 mmol) and the resulting mixture stirred at 0° C. for 30 minutes and at room temperature for 3 hours. The reaction mixture was diluted with dichloromethane (100 ml) and washed with citric acid solution (3×50 ml) and water (2×50 ml), dried (MgSO4) and concentrated in vacuo to give a solid. The crude product was purified by flash chromatography on silica (40 g) eluting with hexane:ethyl acetate (3:2). The pure fractions were combined and concentrated in vacuo to give the title product (462 mg, 80%).

reactant | (1S,4aS,5S,8aR)-2,8a-dihydroxy-3,8-dimethyl-5-(1-methylethyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 0.96 mmol, 500 mg | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3C(C(=C[C@@H]2[C@@H](CCC([C@]32O)C)C(C)C)C)O)O | C27H37ClN2O6
reactant | propargyl chloroformate | 1.44 mmol, 170 mg | ClC(=O)OCC#C | C4H3ClO2
catalyst | 4-dimethylaminopyridine | 2.9 mmol, 350 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (1S,2R,4aS,5S,8R,8aR)-8a-hydroxy-3,8-dimethyl-5-(1-methylethyl)-2-{[(prop-2-ynyloxy)carbonyl]oxy}-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 462 mg, 80% | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@@H]2[C@@H](CC[C@H]([C@]32O)C)C(C)C)C)OC(=O)OCC#C)O | C31H39ClN2O8
